### ISSUE TITLE
Match with ite on rhs fails to simplify

### ISSUE THREAD

**Issue by ammkrn** [leanprover/lean4#891]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The match for `daysInMonth` fails to simplify/reduce to the right hand side even when the identity of the argument is known. It works if the conditional is removed.

```
@[reducible]
def isLeapYear (y : Nat) : Prop :=  (y % 400 = 0) ∨ (y % 4 = 0 ∧ y % 100 ≠ 0)

@[reducible]
def daysInMonth (year : Nat) (month : Nat) : Nat := 
  match month with
  | 2  => if isLeapYear year then 29 else 28
  | 4  => 30
  | 6  => 30
  | 9  => 30
  | 11 => 30
  | _  => 31


/-
Stuck at:
year : Nat
⊢ (match 4 with 
  | 2 => if isLeapYear year then 29 else 28
  | 4 => 30
  | 6 => 30
  | 9 => 30
  | 11 => 30
  | x => 31) =
  30
-/
example (year : Nat) : daysInMonth year 4 = 30 := by
  simp [daysInMonth]
  sorry

example (year : Nat) : daysInMonth year 12 = 31 := by
  delta daysInMonth
  simp
  sorry

example (year : Nat) : daysInMonth year 2 = (if isLeapYear year then 29 else 28) := by
  simp [daysInMonth]
  sorry

```

**Expected behavior:**
The expectation is that e.g. matching on `4` would reduce to `30`.

**Actual behavior:** 
The match statement fails to reduce.

### Versions
Lean (version 4.0.0-nightly-2021-12-15, commit 42d8c333a6e6, Release)
MacOS 11.4
